US08071609B2
B. 2,6-Dimethyl-3-aminobromo benzene
2,6-Dimethyl-3-nitrobromo benzene (5.7 g, 0.025 mol) was dissolved in acetic acid (60 mL) and ethanol (60 mL). To this was added iron powder (5.6 g, 0.01 mol) in small portions and after the addition, it was refluxed for 2-3 h under nitrogen. An additional 2.8 g of iron powder was added and again refluxed for another 2 h. The mixture was filtered through celite and concentrated in vacuo. The residue was neutralized with sodium carbonate solution and repeatedly extracted (×3) with boiling ethyl acetate (50 mL each). Ethyl acetate was concentrated after drying over sodium sulfate to give a brown solid which was purified by chromatography on silica gel using 4% ethyl acetate in hexane to give a pale yellow solid.

reactant | 2,6-Dimethyl-3-nitrobromo benzene | 0.025 mol, 5.7 g | CC1=C(C(=CC=C1[N+](=O)[O-])C)Br | C8H8BrNO2
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | iron | 0.01 mol, 5.6 g | [Fe] | Fe
catalyst | iron | 2.8 g | [Fe] | Fe
product | 2,6-Dimethyl-3-aminobromo benzene | CC1=C(C(=CC=C1N)C)Br | C8H10BrN
